US07514566B2
To a 100 mL round-bottomed flask was added thiazole 4-carboxaldehyde tert-butyl (S)-1-(4-formyl-5-(isoquinolin-6-yl)thiazol-2-yl-(Boc)amino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate (0.098 g, 0.15 mmol), MeOH (0.0060 mL, 0.15 mmol), sodium methoxide (0.027 g, 0.51 mmol) and p-toluenesulfonylmethylisonitrile (0.035 g, 0.18 mmol). The resulting solution was stirred at reflux for about 1 hour until LCMS indicated that the reaction was complete. LCMS indicated complete conversion with removal of one of the Boc groups. The crude reaction was quenched with water and extracted three times with EtOAc. The combined organic layers were dried over sodium sulfate, filtered, and the solvent was removed. The crude product was used immediately in the next step. To a 100 mL round-bottomed flask was added the crude material from the previous step (0.100 g, 0.14 mmol), DCM (0.0092 mL, 0.14 mmol), TFA (0.011 mL, 0.14 mmol), and a few drops of triethylsilane. The reaction was stirred at room temperature and followed by LCMS. Toluene was added, and the solvent was removed. The residue was dissolved in 2 N ammonia in MeOH, and the crude product was adsorbed onto a plug of silica gel and chromatographed through a Redi-Sep® pre-packed silica gel column (12 g), eluting with a gradient of 1% to 10% MeOH in DCM, to provide N-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propyl)-5-(isoquinolin-6-yl)-4-(oxazol-5-yl)thiazol-2-amine (0.072 g, 101% yield).

reactant | thiazole 4-carboxaldehyde tert-butyl (S)-1-(4-formyl-5-(isoquinolin-6-yl)thiazol-2-yl-(Boc)amino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate | 0.15 mmol, 0.098 g | C(C)(C)(C)OC(N[C@H](CN(C(=O)OC(C)(C)C)C=1SC(=C(N1)C=O)C=1C=C2C=CN=CC2=CC1)CC1=CC=C(C=C1)C(F)(F)F)=O.S1C=NC(=C1)C=O
reactant | MeOH | 0.15 mmol, 0.0060 mL | CO | CH4O
reactant | sodium methoxide | 0.51 mmol, 0.027 g | C[O-].[Na+]
reactant | p-toluenesulfonylmethylisonitrile | 0.18 mmol, 0.035 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | DCM | 0.14 mmol, 0.0092 mL | C(Cl)Cl | CH2Cl2
reactant | TFA | 0.14 mmol, 0.011 mL | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | triethylsilane | a few drops | C(C)[SiH](CC)CC | C6H16Si
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | N-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propyl)-5-(isoquinolin-6-yl)-4-(oxazol-5-yl)thiazol-2-amine | 0.072 g, 101% yield | N[C@H](CNC=1SC(=C(N1)C1=CN=CO1)C=1C=C2C=CN=CC2=CC1)CC1=CC=C(C=C1)C(F)(F)F | C25H20F3N5OS
